.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-270
* Inductance = 27nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011F-270_freq port1 port2 PARAMS: Cpar=0.3pF Ind=0.018uH
X1 port1 port2 Model1A PARAMS:
+ R1=1440
+ R2=0.11
+ C= {Cpar}
+ K1=0.000078
+ K2=0.05
+ K3= {Ind}
+ K4=0.0017
+ K5=5E-10
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=240.9391654
.ends 026011F-270_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-270
* Inductance = 27nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 026011F-270_imp port1 port2 PARAMS: Cpar=0.298pF Ind=0.018uH
X1 port1 port2 Model1D PARAMS:
+ R1=1440
+ R2=0.11
+ C= {Cpar}
+ K1=0.000078
+ K2=0.05
+ K3= {Ind}
+ K4=0.0017
+ K5=5E-10
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=240.9391654
.ends 026011F-270_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-720
* Inductance = 72nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011F-720_freq port1 port2 PARAMS: Cpar=0.22pF Ind=0.077uH
X1 port1 port2 Model1A PARAMS:
+ R1=1080
+ R2=0.4
+ C= {Cpar}
+ K1=0.000152
+ K2=0.078
+ K3= {Ind}
+ K4=0.0035
+ K5=0.0000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=495.2814622
.ends 026011F-720_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-720
* Inductance = 72nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 026011F-720_imp port1 port2 PARAMS: Cpar=0.156pF Ind=0.077uH
X1 port1 port2 Model1D PARAMS:
+ R1=1080
+ R2=0.4
+ C= {Cpar}
+ K1=0.000152
+ K2=0.078
+ K3= {Ind}
+ K4=0.0035
+ K5=0.0000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=495.2814622
.ends 026011F-720_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-101
* Inductance = 100nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011F-101_freq port1 port2 PARAMS: Cpar=0.06pF Ind=0.1uH
X1 port1 port2 Model1A PARAMS:
+ R1=800
+ R2=0.5
+ C= {Cpar}
+ K1=0.000016
+ K2=0.06
+ K3= {Ind}
+ K4=0.0048
+ K5=0.00000019
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1185.678354
.ends 026011F-101_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-101
* Inductance = 100nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 026011F-101_imp port1 port2 PARAMS: Cpar=0.043pF Ind=0.1uH
X1 port1 port2 Model1D PARAMS:
+ R1=800
+ R2=0.5
+ C= {Cpar}
+ K1=0.000016
+ K2=0.06
+ K3= {Ind}
+ K4=0.0048
+ K5=0.00000019
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1185.678354
.ends 026011F-101_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-151
* Inductance = 150nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011F-151_freq port1 port2 PARAMS: Cpar=0.088pF Ind=0.163uH
X1 port1 port2 Model1A PARAMS:
+ R1=1480
+ R2=0.6
+ C= {Cpar}
+ K1=0.000106
+ K2=0.11
+ K3= {Ind}
+ K4=0.0067
+ K5=0.0000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1185.025225
.ends 026011F-151_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-151
* Inductance = 150nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 026011F-151_imp port1 port2 PARAMS: Cpar=0.064pF Ind=0.163uH
X1 port1 port2 Model1D PARAMS:
+ R1=1480
+ R2=0.6
+ C= {Cpar}
+ K1=0.000106
+ K2=0.11
+ K3= {Ind}
+ K4=0.0067
+ K5=0.0000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1185.025225
.ends 026011F-151_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-271
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011F-271_freq port1 port2 PARAMS: Cpar=0.027pF Ind=0.282uH
X1 port1 port2 Model1A PARAMS:
+ R1=2200
+ R2=1.15
+ C= {Cpar}
+ K1=0.000076
+ K2=0.158
+ K3= {Ind}
+ K4=0.0106
+ K5=0.0000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2919.38656
.ends 026011F-271_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-271
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 026011F-271_imp port1 port2 PARAMS: Cpar=0.02pF Ind=0.282uH
X1 port1 port2 Model1D PARAMS:
+ R1=2200
+ R2=1.15
+ C= {Cpar}
+ K1=0.000076
+ K2=0.158
+ K3= {Ind}
+ K4=0.0106
+ K5=0.0000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2919.38656
.ends 026011F-271_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-431
* Inductance = 430nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011F-431_freq port1 port2 PARAMS: Cpar=0.028pF Ind=0.437uH
X1 port1 port2 Model1A PARAMS:
+ R1=1380
+ R2=1.85
+ C= {Cpar}
+ K1=0.00015
+ K2=0.254
+ K3= {Ind}
+ K4=0.014
+ K5=0.0000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5019.037974
.ends 026011F-431_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-431
* Inductance = 430nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 026011F-431_imp port1 port2 PARAMS: Cpar=0.022pF Ind=0.437uH
X1 port1 port2 Model1D PARAMS:
+ R1=1380
+ R2=1.85
+ C= {Cpar}
+ K1=0.00015
+ K2=0.254
+ K3= {Ind}
+ K4=0.014
+ K5=0.0000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5019.037974
.ends 026011F-431_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-561
* Inductance = 560nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 026011F-561_freq port1 port2 PARAMS: Cpar=0.022pF Ind=0.584uH
X1 port1 port2 Model1A PARAMS:
+ R1=690
+ R2=2.8
+ C= {Cpar}
+ K1=0.0001
+ K2=0.239
+ K3= {Ind}
+ K4=0.0172
+ K5=0.0000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7268.135598
.ends 026011F-561_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 026011F-561
* Inductance = 560nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 026011F-561_imp port1 port2 PARAMS: Cpar=0.018pF Ind=0.584uH
X1 port1 port2 Model1D PARAMS:
+ R1=690
+ R2=2.8
+ C= {Cpar}
+ K1=0.0001
+ K2=0.239
+ K3= {Ind}
+ K4=0.0172
+ K5=0.0000005
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7268.135598
.ends 026011F-561_imp

